US07951795B2
2′-Oxo-N-[(7R)-8-oxo-9-(2-pyrrolidin-1-ylethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl]-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridine]-5-carboxamide
A mixture of 7-(R)-amino-9-(2-pyrrolidin-1-yl-ethyl)-6,7,9,10-tetrahydro-3H-2,3,9-triazacyclohepta[e]inden-8-one (72 mg, 0.23 mmol) [Chaturvedula et al. WO 2006/052378], (±)-2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridine]-5-carboxylic acid (78 mg, 0.28 mmol) [Bell et al. WO 2006/031606], HOBT (43 mg, 0.28 mmol), and EDC (54 mg, 0.28 mmol) in DMF (2 mL) is stirred at ambient temperature for 18 h. The reaction mixture is purified directly by HPLC using a reversed phase C18 column and eluting with a gradient of H2O:CH3CN:CF3CO2H-90:10:0.1 to 5:95:0.1. The pure, product-containing fractions are combined and made basic with saturated aqueous NaHCO3. The resulting mixture is extracted with EtOAc (2×20 mL), and the combined organic extracts are washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo to provide the title compound.

reactant | 7-(R)-amino-9-(2-pyrrolidin-1-yl-ethyl)-6,7,9,10-tetrahydro-3H-2,3,9-triazacyclohepta[e]inden-8-one | 0.23 mmol, 72 mg | N[C@@H]1CC2=C(C=3C=NNC3C=C2)CN(C1=O)CCN1CCCC1 | C17H23N5O
reactant | (±)-2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridine]-5-carboxylic acid | 0.28 mmol, 78 mg | O=C1C2(C=3C(=NC=CC3)N1)CC1=CC=C(C=C1C2)C(=O)O | C16H12N2O3
reactant | HOBT | 0.28 mmol, 43 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.28 mmol, 54 mg
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2′-Oxo-N-[(7R)-8-oxo-9-(2-pyrrolidin-1-ylethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl]-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridine]-5-carboxamide | O=C1C2(C=3C(=NC=CC3)N1)CC1=CC=C(C=C1C2)C(=O)N[C@@H]2CC1=C(C=3C=NNC3C=C1)CN(C2=O)CCN2CCCC2 | C33H33N7O3
